US04336263
(a) 2-(N-Benzylmethylamino)-methyl-cyclopentanone hydrochloride
87.5 g (0.55 mole) of N-benzylmethylamine hydrochloride, 84 g (1.0 mole) of cyclopentanone, 45 g of paraformaldehyde (1.5 moles of formaldehyde) and 500 ml of ethanol are refluxed for one hour whilst stirring, during which solution occurs. After the solution has cooled, the solvent is distilled off under reduced pressure, the oily residue is dissolved in 100 ml of isopropanol and 500 ml of ethyl acetate are then added, whereupon the product crystallizes out after some time.

reactant | N-benzylmethylamine hydrochloride | 0.55 mole, 87.5 g | Cl.C(C1=CC=CC=C1)CN
reactant | cyclopentanone | 1.0 mole, 84 g | C1(CCCC1)=O | C5H8O
reactant | paraformaldehyde | 1.5 moles, 45 g | C=O | CH2O
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | 2-(N-Benzylmethylamino)-methyl-cyclopentanone hydrochloride | Cl.C(C1=CC=CC=C1)CNC1(C(CCC1)=O)C | InChI=1S/C14H19NO.ClH/c1-14(10-5-8-13(14)16)15-11-9-12-6-3-2-4-7-12;/h2-4,6-7,15H,5,8-11H2,1H3;1H
